US04247543
H-Tyr-(D)-Ala-Gly-Phe-Met-serinol (trifluoroacetate)
2 g of Boc-Tyr-(D)-Ala-Gly-Phe-Met-serinol are dissolved at room temperature in 10 ml of CF3COOH/CH2Cl2 (1:1 v/v). After 30 minutes, the mixture is concentrated under vacuum and the residue triturated with ether. The solid product is recrystallized from methanol/ether to yield the title compound. M.P. 200° (decomp.). [α]D20 =+2.1° (C=1.0 in DMF).

reactant | Boc-Tyr-(D)-Ala-Gly-Phe-Met serinol | 2 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCSC)C(=O)O)C(=O)OC(C)(C)C.NC(CO)CO
reactant | CF3COOH CH2Cl2 | 10 ml | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | H-Tyr-(D)-Ala-Gly-Phe-Met serinol (trifluoroacetate) | N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCSC)C(=O)O.FC(C(=O)OC[C@H](N)CO)(F)F | InChI=1S/C28H37N5O7S.C5H8F3NO3/c1-17(31-26(37)21(29)14-19-8-10-20(34)11-9-19)25(36)30-16-24(35)32-23(15-18-6-4-3-5-7-18)27(38)33-22(28(39)40)12-13-41-2;6-5(7,8)4(11)12-2-3(9)1-10/h3-11,17,21-23,34H,12-16,29H2,1-2H3,(H,30,36)(H,31,37)(H,32,35)(H,33,38)(H,39,40);3,10H,1-2,9H2/t17-,21+,22+,23+;3-/m11/s1
